US04665070
4-ethyl-6-nitro anthranil (2 g) was refluxed for three hours in ethanol with potassium carbonate. The reaction mixture was cooled, filtered and evaporated to a dark oily solid which was dissolved in ethyl acetate and dried. The residue was re-dissolved in methylene chloride and columned on silica gel using 15% ethyl acetate-petroleum ether. The residue from the filtrate was recrystallized from methylene chloride-petroleum ether to give 1.9 g ethyl-2-amino-6-ethyl-4-nitrobenzoate, m.p. 68°-70° C., IR: 3490 cm, 3380 cm, 3080 cm, 2980 cm, 1690 cm, 1620 cm, 1515 cm, 1350 cm.

reactant | 4-ethyl-6-nitro anthranil | 2 g | C(C)C=1C2=CON=C2C=C(C1)[N+](=O)[O-] | C9H8N2O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | C(C)O | C2H6O
product | ethyl-2-amino-6-ethyl-4-nitrobenzoate | 1.9 g | C(C)OC(C1=C(C=C(C=C1CC)[N+](=O)[O-])N)=O | C11H14N2O4
